US08106070B2
1-[4-(3-amino-1-methyl-1H-pyrazol-4-yl)phenyl]-2-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]propan-2-ol
Hydrogen chloride (4 M in 1,4-dioxane) (2 μL, 8 mmol) was added to an ambient temperature solution of tert-butyl [4-(4-{2-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylpropyl)-1H-imidazo 1-2-yl]-2-hydroxypropyl}phenyl)-1-methyl-1H-pyrazol-3-yl]carbamate (33 mg, 0.06 mmol) in methanol (2 mL). After stirring at 70° C. for 1 h, volatiles were removed. The residue was purified with high pressure liquid chromatography (KR100-5C18 100×21.2 mm column) eluting with 10-100% acetonitrile/water containing 0.05% trifluoroacetic acid. The residue was partitioned between methanol/ethyl acetate and 10% aqueous sodium hydroxide. The aqueous phase was extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo to afford the title compound. (M+H) found: 368.

reactant | Hydrogen chloride | 8 mmol, 4 M, 2 μL | Cl | ClH
reactant | tert-butyl [4-(4-{2-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylpropyl)-1H-imidazo 1-2-yl]-2-hydroxypropyl}phenyl)-1-methyl-1H-pyrazol-3-yl]carbamate | 0.06 mmol, 33 mg | CN(S(=O)(=O)N1C(=NC(=C1)CC(C)(C)C)C(CC1=CC=C(C=C1)C=1C(=NN(C1)C)NC(OC(C)(C)C)=O)(C)O)C | C28H42N6O5S
solvent | methanol | 2 mL | CO | CH4O
product | 1-[4-(3-amino-1-methyl-1H-pyrazol-4-yl)phenyl]-2-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]propan-2-ol | NC1=NN(C=C1C1=CC=C(C=C1)CC(C)(O)C=1NC=C(N1)CC(C)(C)C)C | C21H29N5O
